US07902373B2
Step A: Preparation of tert-butyl 6-bromonicotinate
To a round bottom flask containing 2-bromo-5-pyridinecarboxylic acid (10.0 g, 49 mmol) in DCM (500 mL) was added oxalyl bromide (7.4 mL) and 5 drops of DMF. After some gas evolution, the reaction mixture was stirred at reflux ca 6 h, then cooled to rt and heptane 100 mL was added, followed by concentration of the mixture. The mixture was then suspended in THF 400 mL, cooled to 0° C. t-BuOK (5.8 g, 52 mmol) was then added and the r×n allowed to warm to rt and stirred for 2 h. The mixture poured into EtOAc, washed with 1 N NaOH, water, brine, dried MgSO4 filtered and concentrated. The residue was purified by silica gel chromatography Biotage 40S Heptane EtOAc 0-80% 3 L to afford the title compound 4.2 g (36%) of as a white solid. 1H NMR (400 MHz, DMSO-d6) □ ppm 8.78-8.86 (1H, m), 8.14 (1H, dd, J=8.4, 2.4 Hz), 7.81 (1H d, J=8.4 Hz), 1.56 (9H, s).

reactant | 2-bromo-5-pyridinecarboxylic acid | 49 mmol, 10.0 g | BrC1=NC=C(C=C1)C(=O)O | C6H4BrNO2
reactant | oxalyl bromide | 7.4 mL | C(C(=O)Br)(=O)Br | C2Br2O2
reactant | heptane | 100 mL | CCCCCCC | C7H16
reactant | t-BuOK | 52 mmol, 5.8 g | CC(C)(C)[O-].[K+]
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 6-bromonicotinate | 4.2 g, 36% | BrC1=NC=C(C(=O)OC(C)(C)C)C=C1 | C10H12BrNO2
